US20010056109A1
(a) 2,3-Diphenylpropanoic Acid
10% Palladium on charcoal (0.8 g) was added to a solution of α-phenylcinnamic acid (10.0 g, 0.0445 mol) in ethanol (200 ml). The mixture was hydrogenated at ambient temperature. The mixture was filtered through Celite, and the solvent was evaporated.

reactant | α-phenylcinnamic acid | 0.0445 mol, 10.0 g | C1(=CC=CC=C1)C(C(=O)O)=CC1=CC=CC=C1 | C15H12O2
catalyst | Palladium on charcoal | 0.8 g | [Pd] | Pd
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | 2,3-Diphenylpropanoic Acid | C1(=CC=CC=C1)C(C(=O)O)CC1=CC=CC=C1 | C15H14O2
